US06949551B2
Step 1: 5-benzoyloxy-3-chloro-2-hydroxy-1-iodobenzene
3 g of 5-benzoyloxy-1-chloro-2-hydroxybenzene were dissolved in 35 ml of DMF. 2.17 g of sodium iodide and 3.29 g of chloramin T were added. After one hour of stirring at room temperature, about 500 ml of water were added to the mixture, which was then extracted with ethyl acetate. The organic phase was washed with 5% strength sodium thiosulfate solution, dried and concentrated using a rotary evaporator. The resulting product was clean enough for the next reaction. Yield: 3.81 g (84%)

reactant | 5-benzoyloxy-1-chloro-2-hydroxybenzene | 3 g | C(C1=CC=CC=C1)(=O)OC=1C=CC(=C(C1)Cl)O | C13H9ClO3
reactant | sodium iodide | 2.17 g | [I-].[Na+]
reactant | water | about 500 ml | O | H2O
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 5-benzoyloxy-3-chloro-2-hydroxy-1-iodobenzene | C(C1=CC=CC=C1)(=O)OC=1C=C(C(=C(C1)I)O)Cl | C13H8ClIO3
